US09102591B2
2-Methyl-N-[4-(6-methyl-pyridin-3-yl)-tetrahydro-pyran-4-ylmethyl]-benzamide
From 2-methylbenzoic acid and C-[4-(6-methylpyridin-3-yl)-tetrahydropyran-4-yl]methylamine. LCMS (MH+): m/z=325.0, tR (minutes, Method B)=0.60

reactant | 2-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | C-[4-(6-methylpyridin-3-yl)-tetrahydropyran-4-yl]methylamine | CC1=CC=C(C=N1)C1(CCOCC1)CN | C12H18N2O
product | 2-Methyl-N-[4-(6-methyl-pyridin-3-yl)-tetrahydro-pyran-4-ylmethyl]-benzamide | CC1=C(C(=O)NCC2(CCOCC2)C=2C=NC(=CC2)C)C=CC=C1 | C20H24N2O2
